US09326987B2
6-(1H-Indol-4-yl)-4-[5-(phenylmethyl)-1,3,4-oxadiazol-2-yl]-1H-indazole
6-(1H-Indol-4-yl)-1-[(4-methylphenyl)sulfonyl]-4-(1H-tetrazol-5-yl)-1H-indazole-6-(1H-indol-4-yl)-1-(phenylsulfonyl)-4-(1H-tetrazol-5-yl)-1H-indazole (1:1) (100 mg, 0.084 mmol) and phenylacetyl chloride (0.224 ml, 1.699 mmol) in chloroform (4 ml), were heated under microwave irradiation at 100° C. for 30 mins, followed by 100° C. for a further 30 mins. The reaction mixture was treated with methanol (5 ml) and evaporated to dryness. The residue was then dissolved in dichloromethane, loaded onto a silica cartridge (10 g) and purified by column chromatography, eluting with 0-25% methanol/dichloromethane. The appropriate fractions were combined and concentrated to give a brown solid. The solid was treated with isopropanol (0.5 ml) and 2M aqueous sodium hydroxide (0.510 ml, 1.019 mmol) and stirred at 20° C. for 1 h. Additional isopropanol (0.5 ml) and 2M aqueous sodium hydroxide (0.510 ml) were added, the mixture sonicated and then stirred at 20° C. for a further 18 h. The mixture was neutralised with 2M aqueous hydrochloric acid, evaporated to dryness and azeotroped with isopropanol (5 ml). The residue was dissolved in isopropanol (5 ml), absorbed onto Florisil, then placed on top of a silica cartridge (10 g) and eluted with 0-100% ethyl acetate/cyclohexane. Appropriate fractions were combined and evaporated to give the title compound as an off-white solid (9 mg).

reactant | 6-(1H-Indol-4-yl)-1-[(4-methylphenyl)sulfonyl]-4-(1H-tetrazol-5-yl)-1H-indazole 6-(1H-indol-4-yl)-1-(phenylsulfonyl)-4-(1H-tetrazol-5-yl)-1H-indazole | 0.084 mmol, 100 mg | N1C=CC2=C(C=CC=C12)C1=CC(=C2C=NN(C2=C1)S(=O)(=O)C1=CC=C(C=C1)C)C1=NN=NN1.N1C=CC2=C(C=CC=C12)C1=CC(=C2C=NN(C2=C1)S(=O)(=O)C1=CC=CC=C1)C1=NN=NN1
reactant | phenylacetyl chloride | 1.699 mmol, 0.224 ml | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | sodium hydroxide | 1.019 mmol, 2M, 0.510 ml | [OH-].[Na+]
reactant | sodium hydroxide | 2M, 0.510 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | chloroform | 4 ml | C(Cl)(Cl)Cl | CHCl3
solvent | isopropanol | 0.5 ml | C(C)(C)O | C3H8O
solvent | isopropanol | 0.5 ml | C(C)(C)O | C3H8O
solvent | methanol | 5 ml | CO | CH4O
product | 6-(1H-Indol-4-yl)-4-[5-(phenylmethyl)-1,3,4-oxadiazol-2-yl]-1H-indazole | 9 mg | N1C=CC2=C(C=CC=C12)C1=CC(=C2C=NNC2=C1)C=1OC(=NN1)CC1=CC=CC=C1 | C24H17N5O
